US05932582
To a 100 mL round bottomed flask with a stirring bar and a gas dispersion tube was added N-(2-methyl-4-(2-(1,1-dimethylethoxycarbonyl(methyl)amino)ethoxy)phenyl)-4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)benzamide (0.620 g, 1.09 mmol) and 40 mL of dry EtOAc. This well stirred solution was cooled to 0° C. in an ice bath and was saturated with HCl gas for over 15 min. The reaction was aged for an hour and excess HCl was removed with a stream of argon. Removal of EtOAc in vacuo and the crude HCl salt was converting to freebase by dissolving in saturated NaHCO3 solution. Extracted with EtOAc and the layers were separated. A white solid precipitated out from the aqueous and was collected via suction filtration. This crude product was recrystallized from hot MeOH-Et2O to give 0.175 g of N-(2-methyl-4-(2-methylaminoethoxy)phenyl)-4-(1-piperazinyl)benzamide as a white solid. mp: 136-137° C. 1H NMR (DMSO-d6): d 2.28 (s, 3H), 2.50 (s, 3H), 2.95 (m, 2H), 3.03 (m, 4H), 3.27 (m, 4H), 4.06 (m, 2H), 6.78 (d, j=6 Hz, 2H), 6.93 (d, j=9 Hz, 2H), 7.41 (s, 1H), 7.65 (d, j=9 Hz, 1H), 7.79 (d, j=9 Hz, 2H).

reactant | N-(2-methyl-4-(2-(1,1-dimethylethoxycarbonyl(methyl)amino)ethoxy)phenyl)-4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)benzamide | 1.09 mmol, 0.620 g | CC1=C(C=CC(=C1)OCCN(C)C(=O)OC(C)(C)C)NC(C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C31H44N4O6
reactant | HCl | Cl | ClH
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | N-(2-methyl-4-(2-methylaminoethoxy)phenyl)-4-(1-piperazinyl)benzamide | 0.175 g | CC1=C(C=CC(=C1)OCCNC)NC(C1=CC=C(C=C1)N1CCNCC1)=O | C21H28N4O2
